US07906546B2
To 10 g (0.046 mol) of 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-N-hydroxy-acetamidine dissolved in 500 mL of DMF, 1.84 g (0.046 mol, 1 eq) of magnesium oxide were added. After 15 min, 8.5 g (0.046 mol, 1 eq) of phenylsulfanyl-acetyl chloride were added, and the temperature was raised to 105° C. and the solution was stirred overnight. The reaction mixture was partitioned between aqueous NH4Cl and EtOAc, dried over Na2SO4. Column chromatography on silica gel with EtOAc/Heptane 1:1 yielded 8.7 g (55%) of 2-(5-phenylsulfanylmethyl-[1,2,4]oxadiazol-3-ylmethyl)-isoindole-1,3-dione as a light yellow solid, MS: 352 (MH+).

reactant | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-N-hydroxy-acetamidine | 0.046 mol, 10 g | O=C1N(C(C2=CC=CC=C12)=O)CC(=N)NO | C10H9N3O3
reactant | magnesium oxide | 0.046 mol, 1.84 g, 1 eq | [O-2].[Mg+2]
reactant | phenylsulfanyl-acetyl chloride | 0.046 mol, 8.5 g, 1 eq | C1(=CC=CC=C1)SCC(=O)Cl | C8H7ClOS
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 2-(5-phenylsulfanylmethyl-[1,2,4]oxadiazol-3-ylmethyl)-isoindole-1,3-dione | 8.7 g, 55% | C1(=CC=CC=C1)SCC1=NC(=NO1)CN1C(C2=CC=CC=C2C1=O)=O | C18H13N3O3S
